US09314023B2
Anhydrous aluminium chloride 19.7 g was added to N,N-dimethylformamide 220 ml under ice-cooling, and the resulting mixture was stirred for fifteen minutes. Thereto was added sodium azide 9.6 g and the resulting mixture was stirred for fifteen minutes. Thereto was then added 1-bromo-3-isocyanato-2-methylbenzene 30.3 g and the resulting mixture was heated at 80° C. for five hours. After cooling, the reaction solutions was added to a mixture of sodium nitrite 33 g, water 2 L and ice 500 g with stirring. The reaction mixture was acidified with 10% hydrochloric acid and was extracted with ethyl acetate. The organic layer was washed with water and saturated saline and then was dried over anhydrous magnesium sulfate and was then concentrated under reduced pressure to give 1-(2-methyl-3-bromophenyl)-1,4-dihydrotetrazole-5-one 31.4 g.

reactant | aluminium chloride | 19.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium azide | 9.6 g | [N-]=[N+]=[N-].[Na+]
reactant | 1-bromo-3-isocyanato-2-methylbenzene | 30.3 g | BrC1=C(C(=CC=C1)N=C=O)C | C8H6BrNO
reactant | sodium nitrite | 33 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 2 L | O | H2O
solvent | N,N-dimethylformamide | 220 ml | CN(C=O)C | C3H7NO
product | 1-(2-methyl-3-bromophenyl)-1,4-dihydrotetrazole-5-one | 31.4 g | CC1=C(C=CC=C1Br)N1N=NNC1=O | C8H7BrN4O
